US07176242B2
Methyl 3-{[butyl(methyl)amino]carbonyl}-5-iodobenzoate
3-Iodo-5-(methoxycarbonyl)benzoic acid (1 g, 3.3 mmol) is dissolved in DMF (10 mL), and diisopropylethylamine (1.7 mL, 9.8 mmol), HATU (1.5 g, 3.9 mmol), and N-methylbutylamine (581 μL, 4.9 mmol) are added. The reaction stirred at room temperature 2 h. The reaction is partitioned between ethyl acetate and water. The organic layer is washed with saturated sodium bicarbonate, and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 40% ethyl acetate/hexane) provides the title compound. ESI MS m/z 376.1 [M+H]+.

reactant | 3-Iodo-5-(methoxycarbonyl)benzoic acid | 3.3 mmol, 1 g | IC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H7IO4
reactant | diisopropylethylamine | 9.8 mmol, 1.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 3.9 mmol, 1.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylbutylamine | 4.9 mmol, 581 μL | CNCCCC | C5H13N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 3-{[butyl(methyl)amino]carbonyl}-5-iodobenzoate | C(CCC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)I)C | C14H18INO3
